US06495551B1
N-[(5S)-3-(3-Fluoro-4-(4-aminomethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-yl-methyl]acetamide
N-[(5S)-3-(3-Fluoro-4-(4-azidomethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-yl-methyl]acetamide (1.38 g, 3.67 mM) was dissolved in ethanol (60 ml), treated with Lindlar catalyst (5% Pd on CaCO3 partially poisoned with lead, 650 mg), and stirred under an atmosphere of hydrogen under balloon pressure for 4 hours. After filtration through celite, solvent was evaporated to give the title product as a gum, pure enough for further work (1.3 g).

reactant | N-[(5S)-3-(3-Fluoro-4-(4-azidomethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-yl-methyl]acetamide | 3.67 mM, 1.38 g | FC=1C=C(C=CC1N1C=NC(=C1)CN=[N+]=[N-])N1C(O[C@H](C1)CNC(C)=O)=O | C16H16FN7O3
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
catalyst | Pd | [Pd] | Pd
product | N-[(5S)-3-(3-Fluoro-4-(4-aminomethylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-yl-methyl]acetamide | FC=1C=C(C=CC1N1C=NC(=C1)CN)N1C(O[C@H](C1)CNC(C)=O)=O | C16H18FN5O3
